US04769366
To a solution of 1-phenyl-3-[4-(2-tetrahydropyranyloxyethyl)-1-piperazinyl]-7H-pyrrolo[1,2-a]azepin-7-one (1.5 g) in chloroform (15 cc) and methanol (15 cc), 11.5M aqueous hydrochloric acid solution (1 cc) is added and the mixture is stirred at a temperature of about 20° C. for 12 hours. The solvents are evaporated off and the residue thereby obtained is dissolved in methylene chloride (50 cc). The solution is washed with 1N aqueous sodium hydroxide solution (25 cc) and twice with distilled water (50 cc in total), dried over anhydrous magnesium sulphate in the presence of decolorizing charcoal, filtered and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. 3-[4-(2-Hydroxyethyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one (0.28 g) is thereby obtained in the form of a pale yellow oil.

reactant | 1-phenyl-3-[4-(2-tetrahydropyranyloxyethyl)-1-piperazinyl]-7H-pyrrolo[1,2-a]azepin-7-one | 1.5 g | C1(=CC=CC=C1)C=1C=C(N2C1C=CC(C=C2)=O)N2CCN(CC2)CCOC2OCCCC2 | C26H31N3O3
solvent | chloroform | 15 cc | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 15 cc | CO | CH4O
solvent | hydrochloric acid | 11.5M, 1 cc | Cl | ClH
solvent | methylene chloride | 50 cc | C(Cl)Cl | CH2Cl2
product | 3-[4-(2-Hydroxyethyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one | 0.28 g | OCCN1CCN(CC1)C1=CC(=C2N1C=CC(C=C2)=O)C2=CC=CC=C2 | C21H23N3O2
